US06605563B1
Synthesis of (1,3-Dimethylcyclopentadienyl)zirconium Trispivalate (Catalyst Component A)
To a solution of bis(1,3-dimethylcyclopentadienyl)zirconium dichloride (1.390 g, 3.99 mmol) and pivalic acid (1.520 g, 14.9 mmol) in toluene at 25° C. was added neat triethylamine (1.815 g, 18.10 mmol) with stirring. A white precipitate formed immediately which was removed by filtration. The compound was isolated as a pale-yellow powder in 88% yield and exhibited purity above 99% based on NMR results. 1H NMR (toluene-d8): δ 5.84 (m, 2H), 5.53 (m, 1H), 2.18 (s, 6H), 1.13 (s, 27H).

reactant | bis(1,3-dimethylcyclopentadienyl)zirconium dichloride | 3.99 mmol, 1.390 g | [Cl-].[Cl-].CC1(C=C(C=C1)C)[Zr+2]C1(C=C(C=C1)C)C
reactant | pivalic acid | 14.9 mmol, 1.520 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | triethylamine | 18.10 mmol, 1.815 g | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (1,3-Dimethylcyclopentadienyl)zirconium Trispivalate | 88% yield | C(C(C)(C)C)(=O)[O-].C(C(C)(C)C)(=O)[O-].C(C(C)(C)C)(=O)[O-].CC1(C=C(C=C1)C)[Zr+3] | InChI=1S/C7H9.3C5H10O2.Zr/c1-6-3-4-7(2)5-6;3*1-5(2,3)4(6)7;/h3-5H,1-2H3;3*1-3H3,(H,6,7);/q;;;;+3/p-3
